### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Measure/TypeClass/NoAtoms): add `exists_accPt_of_noAtoms`

### PR DESCRIPTION
**Pull request by tdwag123**
feat(MeasureTheory/Measure/TypeClass/NoAtoms): Added a theorem that states If a set has positive measure under an atomless measure, then it has an accumulation point.

Added a lemma in (Topology/DiscreteSubset): If a subset of a topological space has no accumulation points,
then it carries the discrete topology.

Theorem added: `exists_accPt_of_pos_hausdorffMeasure`
Lemma added: `discreteTopology_of_noAccPts `

**Harmonic's Aristotle gave the initial version of the proofs.** I did substantial work shortening the proof from 40 lines and refactoring it into another Lemma.

Special thanks to @plp127 and @CoolRmal for the useful feedback in the PR process.

Co-authored-by: @Aristotle-Harmonic

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 1]
```diff
@@ -1107,6 +1107,64 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
...
+    apply iInf_le_of_le fun _ => {x}; simp only [iUnion_singleton_eq_range, range_const,
+      subset_refl, diam_singleton, zero_le, implies_true, singleton_nonempty, iSup_pos,
+      ENNReal.tsum_const, ENat.card_eq_top_of_infinite, ENat.toENNReal_top, iInf_pos,
+      nonpos_iff_eq_zero, mul_eq_zero, ENNReal.top_ne_zero, ENNReal.rpow_eq_zero_iff, true_and,
+      ENNReal.zero_ne_top, false_and, or_false, false_or]
+    exact hs
+  have : μH[s] E = 0 := by
+    convert MeasureTheory.measure_iUnion_null fun x : E => h_hausdorff_zero x x.2
+    simp_all only [countable_coe_iff, iUnion_singleton_eq_range, Subtype.range_coe_subtype,
+      setOf_mem_eq]
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]: I don't have time to check the details but the reasoning here can probably be simplified by using [dimH_countable](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/HausdorffDimension.html#dimH_countable)

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 2]
```diff
@@ -1107,6 +1107,64 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
...
+  have h_hausdorff_zero : ∀ x ∈ E, μH[s] {x} = 0 := fun x _ => by
+    rw [MeasureTheory.Measure.hausdorffMeasure_apply]
+    refine le_antisymm ?_ (zero_le _)
+    refine iSup_le fun r => iSup_le fun hr => ?_
+    apply iInf_le_of_le fun _ => {x}; simp only [iUnion_singleton_eq_range, range_const,
+      subset_refl, diam_singleton, zero_le, implies_true, singleton_nonempty, iSup_pos,
+      ENNReal.tsum_const, ENat.card_eq_top_of_infinite, ENat.toENNReal_top, iInf_pos,
+      nonpos_iff_eq_zero, mul_eq_zero, ENNReal.top_ne_zero, ENNReal.rpow_eq_zero_iff, true_and,
+      ENNReal.zero_ne_top, false_and, or_false, false_or]
+    exact hs
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]:
```suggestion
    apply iInf_le_of_le fun _ => {x}
    simpa using hs
```

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 3]
```diff
@@ -1107,6 +1107,64 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
...
+      ext x : 1
+      simp_all only [mem_preimage, mem_singleton_iff]
+      obtain ⟨val_1, property_1⟩ := x
+      simp_all only [Subtype.mk.injEq]
+      apply Iff.intro
+      · intro a
+        simp_all only
+      · intro a
+        subst a
+        simp_all only⟩
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]: I think you should use refine here and the code after `by` should start in a new line instead of putting them inside the bracket `⟨⟩`. Also you should always use `simp_all` to end a goal instead of `simp_all only`.

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 4]
```diff
@@ -1107,6 +1107,64 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
...
+      rw [Metric.eventually_nhds_iff] at h
+      simp_all only [gt_iff_lt]
+      obtain ⟨w, h⟩ := h
+      obtain ⟨left, right⟩ := h
+      exact ⟨Metric.ball x w, Metric.isOpen_ball, Metric.mem_ball_self left,
+        Set.eq_singleton_iff_unique_mem.mpr ⟨⟨Metric.mem_ball_self left, hx⟩,
+        fun y hy => Classical.not_not.1 fun h => right hy.1 (by simp_all only [dist_self,
+          mem_inter_iff, not_false_eq_true]) hy.2⟩⟩
+    refine discreteTopology_iff_isOpen_singleton.mpr ?_
+    intro x
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]:
```suggestion
    refine discreteTopology_iff_isOpen_singleton.mpr fun x => ?_
```

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 5]
```diff
@@ -1107,6 +1107,64 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
...
+    (hs : 0 < s) (hE : 0 < μH[s] E) : ∃ x, AccPt x (𝓟 E) := by
+  by_contra! h
+  have h_discrete : DiscreteTopology E := by
+    have h_isolated : ∀ x ∈ E, ∃ U : Set (EuclideanSpace ℝ (Fin n)),
+    IsOpen U ∧ x ∈ U ∧ U ∩ E = {x} := by
+      intro x hx
+      specialize h x
+      rw [accPt_iff_frequently] at h
+      simp_all only [ne_eq, not_frequently, not_and]
+      rw [Metric.eventually_nhds_iff] at h
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]: I feel like that this theorem should also work if you just assume `X` to be an EMetricSpace. I think you should replace `Metric.eventually_nhds_iff` with a lemma that works in EMetricSpace (here's a related lemma: [EMetric.mem_nhds_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/Defs.html#EMetric.mem_nhds_iff)).

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 6]
```diff
@@ -1107,6 +1107,64 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
...
 
+/-- If a set has positive `s`-dimensional Hausdorff measure, then it has an accumulation point. -/
+theorem exists_accPt_of_pos_hausdorffMeasure {n : ℕ} {s : ℝ} {E : Set (EuclideanSpace ℝ (Fin n))}
+    [MeasurableSpace (EuclideanSpace ℝ (Fin n))] [BorelSpace (EuclideanSpace ℝ (Fin n))]
+    (hs : 0 < s) (hE : 0 < μH[s] E) : ∃ x, AccPt x (𝓟 E) := by
+  by_contra! h
+  have h_discrete : DiscreteTopology E := by
+    have h_isolated : ∀ x ∈ E, ∃ U : Set (EuclideanSpace ℝ (Fin n)),
+    IsOpen U ∧ x ∈ U ∧ U ∩ E = {x} := by
+      intro x hx
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]:
```suggestion
    have h_isolated (x) (hx : x ∈ E) : ∃ U : Set X,
    IsOpen U ∧ x ∈ U ∧ U ∩ E = {x} := by
```
You don't need to intro if you use this syntax.

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 7]
```diff
@@ -1107,6 +1107,64 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
     μH[d] (K.orthogonalProjection '' s) ≤ μH[d] s := by
   simpa using K.lipschitzWith_orthogonalProjection.hausdorffMeasure_image_le hs s
 
+/-- If a set has positive `s`-dimensional Hausdorff measure, then it has an accumulation point. -/
+theorem exists_accPt_of_pos_hausdorffMeasure {n : ℕ} {s : ℝ} {E : Set (EuclideanSpace ℝ (Fin n))}
+    [MeasurableSpace (EuclideanSpace ℝ (Fin n))] [BorelSpace (EuclideanSpace ℝ (Fin n))]
+    (hs : 0 < s) (hE : 0 < μH[s] E) : ∃ x, AccPt x (𝓟 E) := by
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]: You want to be as general as you can when you contribute to Mathlib. Here instead of working with Euclidean spaces, you can instead consider a type `X` with instances `[MetricSpace X] [MeasurableSpace X] [BorelSpace X][LindelofSpace X]` and the rest of your code should still work.

Comment (plp127) [reply Mathlib/MeasureTheory/Measure/Hausdorff.lean]: I think it's more common to assume `TopologicalSpace.SeparableSpace` (you can even assume `TopologicalSpace.IsSeparable E`) or in these measure theory files I see `SecondCountableTopology` a lot, they're equivalent in the case of a metric space.

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/Hausdorff.lean]: Yes I believe `TopologicalSpace.IsSeparable E` is a better assumption here.

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean [hunk 8]
```diff
@@ -1107,6 +1107,49 @@ theorem hausdorffMeasure_orthogonalProjection_le [RCLike 𝕜]
...
+      exact this
+    · intro hy
+      rw [hy]
+      exact hxU
+  have h_countable : Countable E := by
+    classical
+    have hsepE : SeparableSpace E := h_sep.separableSpace
+    simpa using (TopologicalSpace.separableSpace_iff_countable (α := E)).1 hsepE
+  have h_hausdorff_zero : ∀ x ∈ E, μH[s] {x} = 0 := fun x _ => by
+    haveI := noAtoms_hausdorff X hs
```
Comment (plp127) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean]: This isn't specific to the Hausdorff measure, right? This should work for any measure with no atoms, since this is the only place you use the fact that your measure is the Hausdorff measure.

Comment (tdwag123) [reply Mathlib/MeasureTheory/Measure/Hausdorff.lean]: Should I change the theorem statement for this? If so, where should I move the file, since it is no longer related to Hausdorff

Comment (Vilin97) [reply Mathlib/MeasureTheory/Measure/Hausdorff.lean]: Maybe in `Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms`? And maybe call the lemma `exists_accPt_of_noAtoms`?

Comment (tdwag123) [reply Mathlib/MeasureTheory/Measure/Hausdorff.lean]: Ok, I ended up doing that, and changed the proof to work for noAtoms

File: Mathlib/MeasureTheory/Measure/Hausdorff.lean
Comment (tdwag123) [inline Mathlib/MeasureTheory/Measure/Hausdorff.lean:1]: Reverted the hausdorff file and updated the NoAtoms file (in the last push)

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean [hunk 9]
```diff
@@ -137,6 +137,47 @@ theorem restrict_Ico_eq_restrict_Icc : μ.restrict (Ico a b) = μ.restrict (Icc
...
+    ext y
+    simp only [mem_preimage, mem_singleton_iff, Subtype.ext_iff]
+    constructor
+    · intro hy
+      have : (y : X) ∈ U ∩ E := ⟨hy, y.2⟩
+      rw [hU_eq] at this
+      exact this
+    · intro hy
+      rw [hy]
+      exact hxU
```
Comment (plp127) [inline Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]: Surely there's a better way to do this, that you can factor out into another lemma that applies to any topological space (instead of just metric spaces)

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean [hunk 10]
```diff
@@ -141,42 +141,26 @@ open Filter TopologicalSpace
 
 variable {X : Type*} [EMetricSpace X] [MeasurableSpace X]
 
+/-- If a subset of a topological space has no accumulation points,
+then it carries the discrete topology. -/
+lemma discreteTopology_of_noAccPts {X : Type*} [TopologicalSpace X] {E : Set X}
```
Comment (plp127) [inline Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]: This should go in a different file, in a file about the discrete topology or in a file about accumulation points or maybe even in a general topology file. I recommend `Mathlib.Topology.DiscreteSubset`.

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean [hunk 11]
```diff
@@ -137,6 +138,20 @@ theorem restrict_Ico_eq_restrict_Icc : μ.restrict (Ico a b) = μ.restrict (Icc
 theorem restrict_Ico_eq_restrict_Ioc : μ.restrict (Ico a b) = μ.restrict (Ioc a b) :=
   restrict_congr_set Ico_ae_eq_Ioc
 
+open Filter TopologicalSpace
+
+variable {X : Type*} [EMetricSpace X] [MeasurableSpace X]
+
+/-- If a set has positive measure under an atomless measure, then it has an accumulation point. -/
+theorem exists_accPt_of_noAtoms {X : Type*} {E : Set X}
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]: You should move this theorem out of this section because this section is about partial ordering. After you move out of this section, I think you can also introduce less variables because some of them are already declared at the beginning of this file.

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean [hunk 12]
```diff
@@ -137,6 +138,20 @@ theorem restrict_Ico_eq_restrict_Icc : μ.restrict (Ico a b) = μ.restrict (Icc
...
+    [EMetricSpace X] [MeasurableSpace X]
+    (μ : Measure X) [NoAtoms μ] (h_sep : TopologicalSpace.IsSeparable E) (hE : 0 < μ E) :
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]:
```suggestion
    {μ : Measure X} [NoAtoms μ] (h_sep : IsSeparable E) (hE : 0 < μ E) :
```
as you have already opened `TopologicalSpace`, or you can choose to not open `TopologicalSpace`.

Also the measure `μ` should be an implicit variable because you have ` (hE : 0 < μ E)`.

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean [hunk 13]
```diff
@@ -137,6 +138,20 @@ theorem restrict_Ico_eq_restrict_Icc : μ.restrict (Ico a b) = μ.restrict (Icc
...
+    ∃ x, AccPt x (𝓟 E) := by
+  by_contra! h
+  haveI : DiscreteTopology E := discreteTopology_of_noAccPts fun x hx => h x
+  exact hE.ne' <| (TopologicalSpace.separableSpace_iff_countable.mp h_sep.separableSpace
+    |> E.countable_coe_iff.mp).measure_zero μ
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]:
```suggestion
  exact hE.ne' <| (separableSpace_iff_countable.mp h_sep.separableSpace
    |> E.countable_coe_iff.mp).measure_zero μ
```
same here

**Review by CoolRmal — COMMENTED** [review]
I think this is ready to be merged after some minor changes.

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean [hunk 14]
```diff
@@ -85,6 +86,22 @@ theorem _root_.Finset.measure_zero (s : Finset α) (μ : Measure α) [NoAtoms μ
 theorem insert_ae_eq_self (a : α) (s : Set α) : (insert a s : Set α) =ᵐ[μ] s :=
   union_ae_eq_right.2 <| measure_mono_null diff_subset (measure_singleton _)
 
+open Filter TopologicalSpace
+
+section
+
+variable {X : Type*} [EMetricSpace X] [MeasurableSpace X] {μ : Measure X} [NoAtoms μ] {E : Set X}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]: EMetricSpace is a very strong assumption. Is it really needed for the statement?

Also, no need to open a section with a `variable` line for a single theorem: just put all the assumptions directly in the statement.

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean [hunk 15]
```diff
@@ -85,6 +86,22 @@ theorem _root_.Finset.measure_zero (s : Finset α) (μ : Measure α) [NoAtoms μ
 theorem insert_ae_eq_self (a : α) (s : Set α) : (insert a s : Set α) =ᵐ[μ] s :=
   union_ae_eq_right.2 <| measure_mono_null diff_subset (measure_singleton _)
 
+open Filter TopologicalSpace
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]: `open` statements are typically at the top of the file.

File: Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean (hunk 14 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]: It should still be true by replacing [EMetricSpace X] with [TopologicalSpace][PseudoMetrizableSpace X] because this is what needed by IsSeparable.separableSpace.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Typeclasses/NoAtoms.lean]: But maybe this can even be weakened more (possibly by changing the proof). We should let the PR author think about it, because that's the essence of formalization (try to come up with the *right* statement).

File: Mathlib/Topology/DiscreteSubset.lean [hunk 16]
```diff
@@ -54,6 +54,17 @@ theorem isDiscrete_iff_nhdsNE {S : Set Y} :
...
+/-- If a subset of a topological space has no accumulation points,
+then it carries the discrete topology. -/
+lemma discreteTopology_of_noAccPts {X : Type*} [TopologicalSpace X] {E : Set X}
+    (h : ∀ x ∈ E, ¬ AccPt x (𝓟 E)) : DiscreteTopology E := by
+  refine discreteTopology_iff_isOpen_singleton.mpr fun x => ?_
+  simp only [accPt_iff_frequently, not_frequently, ne_eq, not_and] at h
+  obtain ⟨U, hU_mem, hU⟩ := Filter.eventually_iff_exists_mem.mp (h x x.2)
+  obtain ⟨V, hVU, hV_open, hxV⟩ := mem_nhds_iff.mp hU_mem
+  exact ⟨V, hV_open, Set.ext fun y => ⟨fun hyV => by_contra fun hne =>
+    hU y (hVU hyV) (Subtype.coe_ne_coe.mpr hne) y.2, fun hy => hy ▸ hxV⟩⟩
```
Comment (PatrickMassot) [inline Mathlib/Topology/DiscreteSubset.lean]:
```suggestion
  simpa [discreteTopology_subtype_iff, AccPt] using h
```
